US07977344B2
6-Amino-2-butylamino-9-(tetrahydrofuran-2-ylmethyl)-7,9-dihydro-8H-Purin-8-one
To a solution of N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt (400 mg) in dry N,N-dimethylformamide (6 ml) at room temperature and under nitrogen was added potassium carbonate (630 mg) in one go. The reaction was stirred at 60° C. for 1.5 hours and then cooled to 40° C. 2-(bromomethyl)tetrahydrofuran (156 μl) was added in one go and the reaction heated to 50° C. overnight and then at 90° C. for 2 hours. The reaction was diluted with ethyl acetate (20 ml) and washed with water (10 ml). The organic layer was separated and concentrated in vacuo. The product was semi-purified by MDAP to afford a mixture. To this mixture, in dry methanol (5 ml) at room temperature and under nitrogen was added 4.0M hydrogen chloride in 1,4-dioxane (1.5 ml) in one go. The reaction was left to stir at room temperature overnight. The reaction was concentrated in vacuo and the product purified by MDAP (slower-running isomer). This afforded the title compound as a white solid (15 mg).

reactant | N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt | 400 mg | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 630 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(bromomethyl)tetrahydrofuran | 156 μl | BrCC1OCCC1 | C5H9BrO
reactant | hydrogen chloride | 4.0M | Cl | ClH
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-butylamino-9-(tetrahydrofuran-2-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 15 mg | NC1=C2NC(N(C2=NC(=N1)NCCCC)CC1OCCC1)=O | C14H22N6O2
